US08222419B2
Production of 11-(1-Methylpiperidin-4-ylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carbonitrile [Compound 5]
Zn(CN)2 (4.70 g, 40.0 mmol), Pd2(dba)3 (0.23 g, 0.25 mmol), and DPPF (0.30 g, 0.50 mmol) were added to a DMF (100 mL) solution of 4-(2-bromo-6H-dibenz[b,e]oxepin-11-ylidene)-1-methylpiperidine (14.8 g, 40.0 mmol) in an argon atmosphere, and the mixture was stirred overnight at 80° C. Insoluble matters were filtered off, a saturated sodium chloride solution (50 mL) was then added to the filtrate, and the product was extracted with ethyl acetate. The solvent was distilled off under a reduced pressure, and thereafter the residue was purified by silica gel column chromatography (chloroform-methanol=9:1), to give 9.14 g (72%) of the captioned compound in the form of crystals.

reactant | 4-(2-bromo-6H-dibenz[b,e]oxepin-11-ylidene)-1-methylpiperidine | 40.0 mmol, 14.8 g | BrC1=CC2=C(OCC3=C(C2=C2CCN(CC2)C)C=CC=C3)C=C1 | C20H20BrNO
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 40.0 mmol, 4.70 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.25 mmol, 0.23 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.50 mmol, 0.30 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 11-(1-Methylpiperidin-4-ylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carbonitrile | 9.14 g, 72% | CN1CCC(CC1)=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C#N | C21H20N2O
